US05675025
Here, 10-deacetylbaccatin III is reacted with a large excess of TES-Cl and pyridine to produce C-7 TES protected 10-deacetylbaccatin III. The product is next acylated utilizing an excess of acetyl chloride and pyridine to produce C-7 TES baccatin III.

reactant | 10-deacetylbaccatin III | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)O | C29H36O10
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | baccatin III | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)OC(=O)C | C31H38O11
